US08957070B2
N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
A mixture of N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1-(methoxymethyl)-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.20 g), concentrated hydrochloride (0.3 mL) and ethanol (8 mL) was heated under reflux for 8 hr. The reaction mixture was neutralized with aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.09 g, yield 50%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (3:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 201-202° C.

reactant | N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1-(methoxymethyl)-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.20 g | OCC1=CN=C(S1)C=1N(C2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)COC | C19H19N3O4S3
reactant | hydrochloride | 0.3 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.09 g, yield 50% | OCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H15N3O3S3
